US07585885B2
(2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-4-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
Add (trifluoromethyl)trimethylsilane (0.28 mL, 1.88 mmol) to an ice cold solution of (R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.11 mmol) in tetrahydrofuran (10 mL). Add tetrabutylammonium fluoride (0.035 mL of 1M solution in tetrahydrofuran). Stir 2.5 hours and add tetrabutylammonium fluoride (2 mL of 1M solution in tetrahydrofuran) and stir 2 hours. Add saturated aqueous ammonium chloride (3 mL) and dilute with ethyl acetate and water. Wash organic layer with saturated aqueous sodium chloride, dry with magnesium sulfate and purify on silica gel with dichloromethane/ethyl acetate mixtures to give the desired compound and 10% hydroxy diastereomer as a foam (0.48 g, 83%).

reactant | (trifluoromethyl)trimethylsilane | 1.88 mmol, 0.28 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | (R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.11 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H30F2N2O5
reactant | tetrabutylammonium fluoride | 1M, 0.035 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 1M, 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-4-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@@](C1)(C(F)(F)F)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C24H31F5N2O5
